US07851473B2
(1) 2,2,2-Trichloroethyl 1H-benzimidazol-2-ylcarbamate
To a solution of 2-aminobenzimidazole (1.00 g, 7.51 mmol) and pyridine (0.714 ml, 9.01 mmol) in tetrahydrofuran (25 ml) was added, under ice-cooling, 2,2,2-trichloroethyl chloroformate (1.25 ml, 9.01 mmol), and the mixture was stirred at room temperature for 1 hour and half. Water was poured to the reaction mixture, and 1.27 g (54.6%) of the desired product as a solid was separated by filtration.

reactant | 2-aminobenzimidazole | 7.51 mmol, 1.00 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | pyridine | 9.01 mmol, 0.714 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 9.01 mmol, 1.25 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl 1H-benzimidazol-2-ylcarbamate | 1.27 g, 54.6% | N1C(=NC2=C1C=CC=C2)NC(OCC(Cl)(Cl)Cl)=O | C10H8Cl3N3O2
